US07498440B2
1-[2-({[4-(1,1-dimethylethyl)phenyl]methyl}oxy)ethyl]-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide
1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol (30 mg, 0.102 mmol) was added to a solution of 1-{[(2-bromoethyl)oxy]methyl}-4-(1,1-dimethylethyl)benzene (25 mg, 0.143 mmol) in 2:3 CH3CN /CHCl3 (3 mL), and the reaction was heated at 60° C. for 96 h. The reaction was concentrated, and the crude product was washed with EtOAc (3×1 mL). The product was dried under high vacuum to give the title compound (9 mg, 16%). LC/MS ESI RT 2.28 min M+ 484

reactant | 1-Azabicyclo[2.2.2]oct-4-yl(diphenyl)methanol | 0.102 mmol, 30 mg | N12CCC(CC1)(CC2)C(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C20H23NO
reactant | 1-{[(2-bromoethyl)oxy]methyl}-4-(1,1-dimethylethyl)benzene | 0.143 mmol, 25 mg | BrCCOCC1=CC=C(C=C1)C(C)(C)C | C13H19BrO
solvent | CH3CN CHCl3 | 3 mL | CC#N.C(Cl)(Cl)Cl
product | 1-[2-({[4-(1,1-dimethylethyl)phenyl]methyl}oxy)ethyl]-4-[hydroxy(diphenyl)methyl]-1-azoniabicyclo[2.2.2]octane bromide | 9 mg, 16% | [Br-].CC(C)(C)C1=CC=C(C=C1)COCC[N+]12CCC(CC1)(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)O | InChI=1S/C33H42NO2.BrH/c1-31(2,3)28-16-14-27(15-17-28)26-36-25-24-34-21-18-32(19-22-34,20-23-34)33(35,29-10-6-4-7-11-29)30-12-8-5-9-13-30;/h4-17,35H,18-26H2,1-3H3;1H/q+1;/p-1
